2166-01-27 07:28:00 Physician Resident Progress Note
Chief Complaint: hypotension, tachycardia
   24 Hour Events:
 EKG - At [**2166-1-26**] 10:45 AM
 EKG - At [**2166-1-26**] 11:25 AM
 EKG - At [**2166-1-26**] 12:55 PM
 MULTI LUMEN - START [**2166-1-26**] 01:49 PM
 PICC LINE - STOP [**2166-1-26**] 04:00 PM
 STOOL CULTURE - At [**2166-1-26**] 04:26 PM
   - Continued to get 1L boluses of IVF (3L NS, 1L NaHCO3, 7L LR)
   - large amount of stool output (from rectal tube and OG tube), almost
   2L before MN
   - Right IJ placed
   - Oncology came to see; it's possible she's in DIC, nothing to do but
   give FFP if she starts bleeding and continue to follow DIC labs; also,
   DC'd all heparin products and checking HIT antibody
   - Surgery saw the patient--not a surgical candidate
   - PICC removed b/c pus seen at site; TPN held
   - started vasopressin for continued poor BP despite IVF
   - patient's oncologist to address code status in AM
   - unable to wean levophed
   Allergies:
   Adhesive Tape (Topical)
   sensitive skin
   Last dose of Antibiotics:
   Vancomycin - [**2166-1-26**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2166-1-27**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-1-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2166-1-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-1-27**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 95 (86 - 126) bpm
   BP: 110/54(68){84/42(56) - 141/94(105)} mmHg
   RR: 13 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.9 kg (admission): 58 kg
   Height: 66 Inch
    CVP: 7 (7 - 18)mmHg
   Total In:
                                                                 11,026 mL
                                                                  1,329 mL
   PO:
   TF:
   IVF:
                                                                 10,244 mL
                                                                  1,329 mL
   Blood products:
                                                                    782 mL
   Total out:
                                                                  5,359 mL
                                                                  1,335 mL
   Urine:
                                                                  1,559 mL
                                                                    585 mL
   NG:
   Stool:
                                                                  1,250 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                  5,667 mL
                                                                     -6 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 608 (559 - 608) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 6
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 98%
   ABG: 7.34/46/115/25/-1
   Ve: 5.1 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Thin, not moving in bed
   Eyes / Conjunctiva: pupils equal, small
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, continued to have
   large amount of output from rectal tube, but brown rather than black
   Cardiovascular: (S1: Normal), (S2: Normal), regular, no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   moving air well b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: ++UE edema b/l; trace LE edema
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Not responsive to voice or physical stimuli
   Labs / Radiology
   43 K/uL
   8.9 g/dL
   111 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   43 mg/dL
   109 mEq/L
   142 mEq/L
   26.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2166-1-26**]  03:23 AM
                             [**2166-1-26**]  05:17 AM
                             [**2166-1-26**]  07:25 AM
                             [**2166-1-26**]  07:50 AM
                             [**2166-1-26**]  12:57 PM
                             [**2166-1-26**]  08:45 PM
                             [**2166-1-27**]  05:11 AM
                             [**2166-1-27**]  05:42 AM
   WBC
   10.2
   9.4
   11.7
   Hct
   28.6
   26.3
   27.7
   26.9
   Plt
   79
   61
   43
   43
   Cr
   1.7
   1.6
   1.3
   1.2
   TropT
   0.03
   0.02
   0.03
   TCO2
   18
   15
   26
   Glucose
   86
   151
   86
   111
   Other labs: PT / PTT / INR:29.3/55.7/3.0, CK / CKMB /
   Troponin-T:112/8/0.03, ALT / AST:25/39, Alk Phos / T Bili:103/1.1,
   Amylase / Lipase:16/23, Fibrinogen:484 mg/dL, Lactic Acid:3.2 mmol/L,
   Albumin:2.1 g/dL, LDH:293 IU/L, Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.0
   mg/dL
   Microbiology:
   C diff continues to be negative
   SPUTUM:
GRAM STAIN (Final [**2166-1-26**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
   Awaiting blood, urine and stool Cx
   Imaging:
   CXR [**1-26**]:
   There is a new right IJ line with tip in SVC.  The right subclavian
   line is unchanged.  The ET tube tip is 4 cm above the carina.  The NG t
   ube tip
   is in the stomach.  There are bilateral pleural effusions, left greater
    than
   right, with bilateral lower lobe volume loss.  There is no pneumothorax
   .
   Assessment and Plan
   79yo woman with h/o metastatic pancreatic CA s/p xeloda and carboplatic
   admitted with nausea/vomiting, developed bowel obstruction/ileus and
   sepsis.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):
   -          currently on vasopressin and levophed to maintain MAP > 65
   -          most likely source is bowel, particularly bowel
   perforation/microperforation or SBP.  Could also consider C Diff.
   -          continue vanc/zosyn and add flagyl for improved coverage of
   bowel pathogens and C Diff.
   -          Has Right IJ
   -          s/p aggressive volume resuscitation with CVPs > [**10-5**]; IV
   fluids PRN CVP > 10
   -          [**Last Name (un) 45**] stim with elevated cortisol; did not start stress dose
   steroids
   -          will try to wean pressors as tolerated
 Hypoxic respiratory failure
   -          note that patient has lung mets, which have been stable on
   imaging
   -          treating possible pneumonia with vancomycin and zosyn (day 1
   = [**1-26**]); adding flagyl as above
   -          following ABGs
   -          albuterol/ipratroprium MDI
   -          versed and fentanyl for sedation while on vent
   -          awaiting TTE
   -          holding CTA at present although PE in the DDx
   # Altered Mental Status:
   -          remains sedated this morning despite 2 hours off of
   midazolam and fentanyl
   -          follow exam to determine if this is oversedation or if she
   suffered neurologic insult during her acute decompensation
   -          consider head CT for evidence of bleed
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS) and distention
   -          continuing to drain feculent material; CT abdomen showed
   profound dilation of small and large bowel
   -          also of note, pt has new ascites on CT scan, so SBP in DDx
   -          intraabdominal source of infection covered with zosyn; will
   add flagyl to cover any C Diff and send toxin B
   -          holding motility agents, NPO
   # Coagulopathy:
   Patient has elevated INR and dropping platelets.  She is septic with
   pancreatic cancer, so it is possible that DIC is responsible for her
   clinical picture.  On the other hand, her fibrinogen has been high and
   her FDP has been normal.  Will avoid all heparin products and check HIT
   antibody.
   -          appreciate input from Hem/Onc
   -          monitor patient for evidence of clotting or bleeding; if
   bleeding, would give FFP
   -          follow DIC labs; peripheral smear done this AM
 LEUKOCYTOSIS: Patient presented to ICU with WBC 18 and 40% bands.
   She is s/p cipro for UTI.  As discussed above, most likely source of
   infection is pulmonary or bowel.
   -          continue vanc/zosyn and flagyl
   -          follow cultures
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          most likely prerenal, although is at risk for ATN given
   profound hypotension on evening of transfer
   -          rapid improvement of Cr with IV fluids is reassuring that
   she did not have tubular necrosis
   -          Foley to closely monitor I/O
 CANCER (MALIGNANT NEOPLASM), PANCREAS
metastatic to lungs
   -          holding chemotherapy at present
   -          appreciate assistance from Onc team in discussing goals of
   care with family
   # h/o CVA:  holding coumadin (unclear why on coumadin)
   # Hypothyroidism: on levothyroxine
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2166-1-26**] 02:00 AM
   Multi Lumen - [**2166-1-26**] 01:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2166-01-27 09:41:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   sedation discontinued
   24 Hour Events:
 EKG - At [**2166-1-26**] 10:45 AM
 EKG - At [**2166-1-26**] 11:25 AM
 EKG - At [**2166-1-26**] 12:55 PM
 MULTI LUMEN - START [**2166-1-26**] 01:49 PM
 PICC LINE - STOP [**2166-1-26**] 04:00 PM
 STOOL CULTURE - At [**2166-1-26**] 04:26 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Adhesive Tape (Topical)
   sensitive skin
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-1-27**] 04:00 AM
   Vancomycin - [**2166-1-27**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-1-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: Ventilator
   Heme / Lymph: Anemia, Coagulopathy
   Allergy / Immunology: Immunocompromised, Chemo
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-1-27**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 101 (86 - 126) bpm
   BP: 105/56(67){84/42(56) - 141/94(105)} mmHg
   RR: 14 (8 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.1 kg (admission): 58 kg
   Height: 66 Inch
   CVP: 7 (6 - 18)mmHg
   Total In:
                                                                 11,026 mL
                                                                  1,616 mL
   PO:
   TF:
   IVF:
                                                                 10,244 mL
                                                                  1,616 mL
   Blood products:
                                                                    782 mL
   Total out:
                                                                  5,359 mL
                                                                  1,470 mL
   Urine:
                                                                  1,559 mL
                                                                    720 mL
   NG:
   Stool:
                                                                  1,250 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                  5,667 mL
                                                                    146 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 608 (559 - 608) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 6
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 99%
   ABG: 7.34/46/115/25/-1
   Ve: 5.1 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: No(t) Bowel sounds present, Distended, Silent w/o tenderness
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool, fragile
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   43 K/uL
   111 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   43 mg/dL
   109 mEq/L
   142 mEq/L
   26.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2166-1-26**]  03:23 AM
                             [**2166-1-26**]  05:17 AM
                             [**2166-1-26**]  07:25 AM
                             [**2166-1-26**]  07:50 AM
                             [**2166-1-26**]  12:57 PM
                             [**2166-1-26**]  08:45 PM
                             [**2166-1-27**]  05:11 AM
                             [**2166-1-27**]  05:42 AM
   WBC
   10.2
   9.4
   11.7
   Hct
   28.6
   26.3
   27.7
   26.9
   Plt
   79
   61
   43
   43
   Cr
   1.7
   1.6
   1.3
   1.2
   TropT
   0.03
   0.02
   0.03
   TCO2
   18
   15
   26
   Glucose
   86
   151
   86
   111
   Other labs: PT / PTT / INR:29.3/55.7/3.0, CK / CKMB /
   Troponin-T:112/8/0.03, ALT / AST:25/39, Alk Phos / T Bili:103/1.1,
   Amylase / Lipase:16/23, Fibrinogen:484 mg/dL, Lactic Acid:3.2 mmol/L,
   Albumin:2.1 g/dL, LDH:293 IU/L, Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION) - etiology unclear. [**Name2 (NI) 317**] had
   massive diarrhea, distention. NG drainage appears fecalent but no
   obvious obstruction.  Covering for bowel sources.
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)/ PANCREATICE CANCER -
   Etiology of abd process unclear. [**Name2 (NI) 60**] have perforation, ischemia, C
   Diff. Not clear if she had had a Toxin B checked so will continue
   Flagyl.  Continuing NG suctioning.  Will need replacement fluids. Would
   check gram stain on NG suctioning
 LEUKOCYTOSIS - improving on abx
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) creat has come down
   with fluids
 PNEUMONIA, ASPIRATION
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2166-1-26**] 02:00 AM
   Multi Lumen - [**2166-1-26**] 01:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : ICU
   Total time spent: 40
   Patient is critically ill

2166-01-28 07:50:00 Physician Resident Progress Note
Chief Complaint: aspiration PNA
   24 Hour Events:
 ARTERIAL LINE - START [**2166-1-27**] 01:38 PM
   Mental status did not significantly improve off sedation, CT head
   negative for bleed/stroke
   Started flagyl empirically, C diff toxin B assay sent
   Thrombocytopenia with some oozing during the day - transfused 1 units
   PRBCs
   Onc had code discussion with family, status is DNR & continue current
   level of care (already intubated)
   Surgery has signed off
   SUBJ:
   pt unresponsive
   Allergies:
   Adhesive Tape (Topical)
   sensitive skin
   Last dose of Antibiotics:
   Vancomycin - [**2166-1-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2166-1-28**] 04:00 AM
   Metronidazole - [**2166-1-28**] 04:30 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-1-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-1-28**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 107) bpm
   BP: 103/52(72){86/48(66) - 121/64(85)} mmHg
   RR: 7 (6 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 58 kg
   Height: 66 Inch
    CVP: 9 (6 - 331)mmHg
   Total In:
                                                                  2,955 mL
                                                                    930 mL
   PO:
   TF:
   IVF:
                                                                  2,580 mL
                                                                    930 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,403 mL
                                                                    795 mL
   Urine:
                                                                  1,593 mL
                                                                    295 mL
   NG:
                                                                    250 mL
                                                                    200 mL
   Stool:
                                                                    560 mL
   Drains:
   Balance:
                                                                    552 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 763 (582 - 763) mL
   PS : 5 cmH2O
   RR (Set): 5
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 9
   SpO2: 100%
   ABG: 7.34/37/150/27/-5
   Ve: 7.5 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General Appearance: frail and elderly
   Eyes / Conjunctiva: Conjunctiva pale, no blink to threat
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   clear anteriorly and at bases
   Abdominal: Soft, Non-tender, Bowel sounds present, much less distended
   than on admission
   Extremities: Right: 2+, Left: 2+, b/l LE and UE edema
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   28 K/uL
   8.4 g/dL
   101 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.6 mEq/L
   34 mg/dL
   110 mEq/L
   143 mEq/L
   25.9 %
   12.7 K/uL
        [image002.jpg]
                             [**2166-1-26**]  12:57 PM
                             [**2166-1-26**]  08:45 PM
                             [**2166-1-27**]  05:11 AM
                             [**2166-1-27**]  05:42 AM
                             [**2166-1-27**]  01:59 PM
                             [**2166-1-27**]  05:17 PM
                             [**2166-1-27**]  06:24 PM
                             [**2166-1-27**]  11:28 PM
                             [**2166-1-28**]  05:12 AM
                             [**2166-1-28**]  05:38 AM
   WBC
   9.4
   11.7
   13.4
   12.7
   Hct
   26.3
   27.7
   26.9
   22.9
   25.3
   28.6
   25.9
   Plt
   61
   43
   43
   38
   28
   Cr
   1.6
   1.3
   1.2
   1.0
   1.0
   TropT
   0.02
   0.03
   TCO2
   26
   26
   21
   Glucose
   151
   86
   111
   145
   101
   Other labs: PT / PTT / INR:39.4/45.9/4.3, CK / CKMB /
   Troponin-T:112/8/0.03, ALT / AST:25/39, Alk Phos / T Bili:103/1.1,
   Amylase / Lipase:16/23, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:2090 ng/mL, Fibrinogen:588
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:293 IU/L, Ca++:6.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: [**1-26**] U/A negative
   Imaging: [**1-27**] CT Head
   FINDINGS:  There is an area of encephalomalacia involving the right
   cerebellar hemisphere consistent with old infarct.  There are
   periventricular white matter hypodensities which could be the result of
   chronic small vessel
   ischemic change.  There is no mass effect or shift of the midline
   structures.
   No abnormal enhancing lesion is identified.  There is mild prominence
   of the ventricular system and cerebral sulci, which is likely the
   result of
   age-related brain atrophy.
   The visualized bony structures are within normal limits.
   IMPRESSION:  No CT evidence of an acute territorial infarct.  No
   intracranial
   hemorrhage.  No abnormal enhancing lesion identified.  Area of
   encephalomalacia involving the right cerebellar hemisphere.  Changes
   suggestive of chronic microangiopathic change.
   Microbiology: [**1-27**] BCx: PND
   [**1-26**] STOOL: neg for C Diff, cx PND
   [**1-26**] PICC:
      WOUND CULTURE (Preliminary):    No significant growth.
   .
   [**2166-1-26**] 5:08 am URINE    URINE CULTURE (Final [**2166-1-27**]):    <10,000
   organisms/ml.
   [**1-26**] BCx: NGTD
   .
   [**1-26**] RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         YEAST.    MODERATE GROWTH.
   Assessment and Plan
   79yo woman with h/o metastatic pancreatic CA s/p xeloda and carboplatic
   admitted with nausea/vomiting, developed bowel obstruction/ileus,
   aspiration PNA, severe sepsis, and MODS.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):
   -          Continue vasopressin and norepinephrine  to maintain MAP >
   65, wean as tolerated.
   -          continue vanc/zosyn/flagyl (C Diff negative x 1)
   -          CVP =[**7-1**], but would not be overly aggressive with IVF as
   developing anasarca and volume overload
   -          No stress dose steroids as cortisol response acceptable
Aspiration PNA with respiratory failure
   -          treating with vancomycin and zosyn (day 1 = [**1-26**]); added
   flagyl as above
   -          following ABGs, gas exchange WNL
   -          albuterol/ipratroprium MDI
   -          d/c
ed versed and fentanyl, RSBI is acceptble, consider
   extubation today, like as part of overall plan to make pt [**Name (NI) 617**]
   # Altered Mental Status:
   -          remains sedated this morning despite off of midazolam and
   fentanyl. Could be residual effect of sedatives
   -          may be also neurologic insult during her acute
   decompensation (hypotension to 50s)
   -          CT head negative for evidence of bleed
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS) and distention
 [**1-25**]
   ileus or partial SBO
   -          Continues to drain feculent material from above and below
   -          intraabdominal source of infection covered with zosyn;
   flagyl to cover any C Diff and f/u toxin B
   -          holding motility agents, NPO
   # Coagulopathy: most c/w DIC, as platelets dropping, INR and PTT
   trending uipwards. However,  FDP 0-10 and fibrinogen elevated (but also
   an Acute Phase Reactant). Pt with malignancy and sepsis as etiologies
   -          monitor patient for evidence of clotting or bleeding; if
   bleeding, give FFP if not [**Month/Day (2) 617**]
   -          vitamin K in case any nutritional or antibiotic related
   component
   -          trend DIC labs
   # Anemia
 s/p 1 units PRBCS on [**1-27**] with appropriate bump but now back
   down. Known guaiac positive and now coagulopathic
   - check PM HCT, would hold off on transfusing additional blood at this
   point
 LEUKOCYTOSIS: Patient presented to ICU with WBC 18 and 40% bands.
   She is s/p cipro x 3 days for UTI on admission.  As discussed above,
   most likely source of infection is pulmonary or bowel.
   -          continue vanc/zosyn and flagyl
   -          follow cultures
 stool cultures negative, C Diff negative x
   1
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          resolved, was likely prerenal
   -          maintain Foley to closely monitor I/O
 CANCER (MALIGNANT NEOPLASM), PANCREAS
metastatic to lungs, locally
   advanced
   -          no more chemotherapy, appreciate assistance from Onc team in
   discussing goals of care with family
   # h/o CVA:  holding coumadin (unclear why on coumadin)
   # Hypothyroidism: on levothyroxine
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2166-1-26**] 02:00 AM
   Multi Lumen - [**2166-1-26**] 01:49 PM
   Arterial Line - [**2166-1-27**] 01:38 PM
   Prophylaxis:
   DVT: holding all heparin products given possible DIC
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
 discussion today re :
   exutbation and comfort care
   Disposition:ICU

2166-01-28 11:47:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on ventilator w/o response
   24 Hour Events:
 ARTERIAL LINE - START [**2166-1-27**] 01:38 PM
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Adhesive Tape (Topical)
   sensitive skin
   Last dose of Antibiotics:
   Metronidazole - [**2166-1-28**] 04:30 AM
   Vancomycin - [**2166-1-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2166-1-28**] 10:10 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-1-28**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: Unresponsive
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-1-28**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 86 (70 - 94) bpm
   BP: 107/51(71){86/48(66) - 121/64(85)} mmHg
   RR: 13 (6 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 58 kg
   Height: 66 Inch
   CVP: 7 (6 - 331)mmHg
   Total In:
                                                                  2,955 mL
                                                                  1,328 mL
   PO:
   TF:
   IVF:
                                                                  2,580 mL
                                                                  1,328 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,403 mL
                                                                    975 mL
   Urine:
                                                                  1,593 mL
                                                                    475 mL
   NG:
                                                                    250 mL
                                                                    200 mL
   Stool:
                                                                    560 mL
   Drains:
   Balance:
                                                                    552 mL
                                                                    353 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (580 - 763) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 9
   SpO2: 100%
   ABG: 7.34/37/150/27/-5
   Ve: 5.6 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General Appearance: Well nourished, frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : basilar)
   Abdominal: Soft, No(t) Bowel sounds present, less distended
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, No(t) Oriented (to): , Movement:
   No spontaneous movement, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   28 K/uL
   101 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.6 mEq/L
   34 mg/dL
   110 mEq/L
   143 mEq/L
   25.9 %
   12.7 K/uL
        [image002.jpg]
                             [**2166-1-26**]  12:57 PM
                             [**2166-1-26**]  08:45 PM
                             [**2166-1-27**]  05:11 AM
                             [**2166-1-27**]  05:42 AM
                             [**2166-1-27**]  01:59 PM
                             [**2166-1-27**]  05:17 PM
                             [**2166-1-27**]  06:24 PM
                             [**2166-1-27**]  11:28 PM
                             [**2166-1-28**]  05:12 AM
                             [**2166-1-28**]  05:38 AM
   WBC
   9.4
   11.7
   13.4
   12.7
   Hct
   26.3
   27.7
   26.9
   22.9
   25.3
   28.6
   25.9
   Plt
   61
   43
   43
   38
   28
   Cr
   1.6
   1.3
   1.2
   1.0
   1.0
   TropT
   0.02
   0.03
   TCO2
   26
   26
   21
   Glucose
   151
   86
   111
   145
   101
   Other labs: PT / PTT / INR:39.4/45.9/4.3, CK / CKMB /
   Troponin-T:112/8/0.03, ALT / AST:25/39, Alk Phos / T Bili:103/1.1,
   Amylase / Lipase:16/23, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:2090 ng/mL, Fibrinogen:588
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:293 IU/L, Ca++:6.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION) - still requiring pressors.
   Have attempted to decreasi volume resuscitation but CVP low and she
   continues to leak into interstitium.  Remains on broad abx.
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS) - abd less distended.
   NG output remains copious and fecalent. Seems likely she has a bowel
   obstruction 2ary to her pancreatic Ca
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 LEUKOCYTOSIS
 PNEUMONIA, ASPIRATION - now complicated by volume overload and
   ARDS/hydrostatic edema
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2166-1-26**] 02:00 AM
   Multi Lumen - [**2166-1-26**] 01:49 PM
   Arterial Line - [**2166-1-27**] 01:38 PM
   Prophylaxis:
   DVT: (holding heparin for low plts)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2166-01-29 06:41:00 Physician Resident Progress Note
Chief Complaint: aspiration PNA
   24 Hour Events:
   Mental status still poor despite no sedatives
   Developed bloody stools with clots, given FFP and platelets
   PM HCT was down to 19.9, stable on rpt check, no action taken in
   anticipation of extubation and [** 617**]
   Family met with Woody - looks like they will arrive at 9AM for
   extubation
   SUBJ:
   responds and opened eyes to voice, does not follow simple commands
   Allergies:
   Adhesive Tape (Topical)
   sensitive skin
   Last dose of Antibiotics:
   Vancomycin - [**2166-1-28**] 08:00 AM
   Metronidazole - [**2166-1-29**] 03:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2166-1-29**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-1-28**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-1-29**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 86 (73 - 96) bpm
   BP: 116/54(78){86/38(57) - 142/62(93)} mmHg
   RR: 13 (8 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 58 kg
   Height: 66 Inch
    CVP: 8 (2 - 10)mmHg
   Total In:
                                                                  2,969 mL
                                                                    364 mL
   PO:
   TF:
   IVF:
                                                                  2,176 mL
                                                                    364 mL
   Blood products:
                                                                    793 mL
   Total out:
                                                                  1,565 mL
                                                                    680 mL
   Urine:
                                                                  1,065 mL
                                                                    280 mL
   NG:
                                                                    200 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,404 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 486 (391 - 580) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   SpO2: 99%
   ABG: ///29/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Thin, frail, pale, elderly, ill
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Diastolic), RRR,
   no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), DP's 2+ and equal
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   no w/r/r
   Abdominal: Soft, Non-tender, hypoactive BS
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   35 K/uL
   6.4 g/dL
   138 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.4 mEq/L
   26 mg/dL
   112 mEq/L
   146 mEq/L
   19.9 %
   4.0 K/uL
        [image002.jpg]
                             [**2166-1-27**]  01:59 PM
                             [**2166-1-27**]  05:17 PM
                             [**2166-1-27**]  06:24 PM
                             [**2166-1-27**]  11:28 PM
                             [**2166-1-28**]  05:12 AM
                             [**2166-1-28**]  05:38 AM
                             [**2166-1-28**]  01:08 PM
                             [**2166-1-28**]  05:57 PM
                             [**2166-1-28**]  08:20 PM
                             [**2166-1-29**]  03:10 AM
   WBC
   13.4
   12.7
   8.0
   5.8
   4.0
   Hct
   22.9
   25.3
   28.6
   25.9
   25.5
   19.9
   19.8
   19.9
   Plt
   38
   28
   25
   51
   35
   Cr
   1.0
   1.0
   0.9
   TCO2
   26
   21
   Glucose
   145
   101
   138
   Other labs: PT / PTT / INR:17.7/36.8/1.6, CK / CKMB /
   Troponin-T:112/8/0.03, ALT / AST:25/39, Alk Phos / T Bili:103/1.1,
   Amylase / Lipase:16/23, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:2090 ng/mL, Fibrinogen:588
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:293 IU/L, Ca++:7.1
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR [**1-28**]:
    Slight increase in pulmonary edema; similar appearance of bilateral
   moderate pleural effusions
   Microbiology: [**1-27**] BCx: NGTD
   [**1-26**]: Stool Cx: negative, CDiff neg
   [**1-26**] PICC Tip: negative
   [**1-26**] urine cx: negative
   [**1-26**] BCx: negative
   Assessment and Plan
   79yo woman with h/o metastatic pancreatic CA s/p xeloda and carboplatic
   admitted with nausea/vomiting, developed bowel obstruction/ileus,
   aspiration PNA, severe sepsis, and MODS.
Aspiration PNA with respiratory failure
   -          treating with vancomycin and zosyn (day 1 = [**1-26**]); added
   flagyl as above
   -          d/c
ed sedation, RSBI is acceptable, will extubate today as
   part of overall plan to make pt [**Name (NI) 617**]
   -          cont albuterol/ipratroprium MDI
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):
   -          Continue vasopressin and norepinephrine to maintain MAP >
   65, wean as tolerated.
   -          continue vanc/zosyn/flagyl (C Diff was negative x 1)
   -          CVP =[**7-1**], but would not give IVF as developing anasarca and
   volume overload
   -          No stress dose steroids as cortisol response acceptable
   # Coagulopathy :much improved with vitamin K, would argue for
   nutritional or antibiotic-associated coagulopathy.
   -          continue vitamin K x 3 days total
   -          if pt not [**Month/Day (3) 617**] would transfuse platelets if <50 and bleeding
   -          thrombocytopenia likely a manifestation of sepsis
   # Anemia
 pt with large GI bleeding as etiology. HCTs appear to have
   stabilized
   -          if [**Month/Day (3) 617**] would not favor any intervention
   -          if not, check PM HCT,  would transfuse additional blood
   # Altered Mental Status:
   -          remains very sedated this morning despite off of meds. Could
   be residual effect of sedatives
   -          may be also neurologic insult during her acute
   decompensation (hypotension to 50s)
   -          CT head negative for evidence of bleed
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS) and distention
 [**1-25**]
   ileus or partial SBO
   -          Continues to drain feculent material from above and below
   -          intraabdominal source of infection covered with zosyn;
   flagyl to cover any C Diff
   -          holding motility agents, NPO
 LEUKOCYTOSIS: - resolved
   -          all culture data negative
   -          continue vanc/zosyn and flagyl
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          resolved, was likely prerenal
 CANCER (MALIGNANT NEOPLASM), PANCREAS
metastatic to lungs, locally
   advanced
   -          no more chemotherapy, appreciate assistance from Onc team in
   discussing goals of care with family
   # h/o CVA:  holding coumadin (unclear why on coumadin)
   # Hypothyroidism: on levothyroxine
   ICU Care
   Nutrition:
   Comments: none
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2166-1-26**] 02:00 AM
   Multi Lumen - [**2166-1-26**] 01:49 PM
   Arterial Line - [**2166-1-27**] 01:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI, would favor conversion to [**Year (4 digits) 617**] status after d/w
   family
   Disposition:ICU